2120-04-06 07:06:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - START [**2120-4-5**] 07:30 PM
 INVASIVE VENTILATION - START [**2120-4-5**] 07:30 PM
   - serial ABGs maintained PO2 so able to wean FiO2 to 40%
   - Initially when paralyzed had to inc respiratory rate to make up for
   metabolic acidosis but once paralytics wore off able to come down on
   rate
   - Hct 19->1unit->23->1unit->26
   - continue to wean off vent overnight, now on pressure support.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefazolin - [**2120-4-6**] 12:00 AM
   Metronidazole - [**2120-4-6**] 12:00 AM
   Infusions:
   Fentanyl (Concentrate) - 25 mcg/hour
   Propofol - 25 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2120-4-5**] 08:15 PM
   Heparin Sodium (Prophylaxis) - [**2120-4-6**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-4-6**] 07:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**22**] AM
   Tmax: 36.1
C (97
   Tcurrent: 36.1
C (97
   HR: 80 (75 - 107) bpm
   BP: 114/62(82) {91/49(65) - 117/62(82)} mmHg
   RR: 10 (10 - 18) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
                                                                  8,187 mL
                                                                  1,491 mL
   PO:
           TF:
   IVF:
                                                                  7,137 mL
                                                                  1,141 mL
   Blood products:
                                                                  1,050 mL
                                                                    350 mL
   Total out:
                                                                  1,265 mL
                                                                    600 mL
   Urine:
                                                                    615 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  6,922 mL
                                                                    891 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 480 (480 - 480) mL
   Vt (Spontaneous): 489 (489 - 613) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 10
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 31
   PIP: 10 cmH2O
   Plateau: 16 cmH2O
   SpO2: 99%
   ABG: 7.34/32/102/18/-7
   Ve: 5.6 L/min
   PaO2 / FiO2: 340
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   80 K/uL
   11.6 g/dL
   163 mg/dL
   0.5 mg/dL
   18 mEq/L
   3.4 mEq/L
   11 mg/dL
   112 mEq/L
   139 mEq/L
   33.4 %
   5.7 K/uL
        [image002.jpg]
                             [**2120-4-5**]  07:43 PM
                             [**2120-4-5**]  07:59 PM
                             [**2120-4-5**]  09:15 PM
                             [**2120-4-5**]  10:00 PM
                             [**2120-4-5**]  11:15 PM
                             [**2120-4-6**]  12:31 AM
                             [**2120-4-6**]  02:10 AM
                             [**2120-4-6**]  03:49 AM
                             [**2120-4-6**]  04:44 AM
                             [**2120-4-6**]  05:58 AM
   WBC
   7.7
   5.7
   Hct
   23.0
   26.4
   29.7
   33.4
   Plt
   106
   80
   Cr
   0.6
   0.5
   TropT
   <0.01
   0.02
   TCO2
   17
   15
   15
   15
   17
   18
   Glucose
   123
   163
   Other labs: PT / PTT / INR:15.9/40.4/1.4, CK / CKMB /
   Troponin-T:481/14/0.02, Lactic Acid:0.9 mmol/L, Albumin:1.7 g/dL,
   Ca++:6.0 mg/dL, Mg++:2.5 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   56 year old female with GIST s/p ex-lap with hypotension
   intra-operatively.
   .
   # Hypotension: From the reports likely hypovolemic shock +/- vasovagal
   episode when passing the NGT since it resolved extremely quickly with
   minimal intervention. [**Month (only) 60**] have also been PE given operation and
   malignancy are significant risk factors and also had hypoxia at the
   time. If it was PE it has since resolved as O2 sat now better and
   hypotension resolved. Also, very high risk to anti-coagulate so will
   hold off workup for now. Some concern for cardiac event although
   unclear whether has cariomyopathy or not (not on TTE 3 years ago but
   report of it to anesthesia). Could also be a cardiac event that
   triggered the hypotension.
   - Repeat EKG here with new TWI V1-V3 ->unclear significance but will
   trend and get EKG in am
   - Cycle enzymes
   - Bolus with LR
   - 3 units prbcs for anemia/bleeding
   - Has 3 large bore peripherals
   - Wean neosynephrine
   - consider LENIs in am if hypotension/hypoxia recur
   .
   # Hypoxia: Transient and likely [**2-6**] NGT placement however cannot r/o
   PE. Now resolving.
   - Monitor sats on vent for now and decrease FiO2
   - would get bolus for sedation, trial to extubate this am.
   - Hold on workup of PE unless hypoxia recurs
   .
   # Anemia: Baseline is 30. Now 19. Likely from intra-operative bleeding.
   - 2 PIVs in place
   - active T+C
   - Transfuse 3 units pRBCs
   - Serial Hcts
   .
   # Non-gap metabolic acidosis/Respiratory acidosis:
   - Possibly [**2-6**] renal losses given low UOP for 8 hours in OR
   - Increase RR to decrease acidosis (PCO2 inappropriately high)
   .
   # Recurrent GIST: Now s/p ex-lap for tumor resection.
   - Follow up surgery recs
   - emailed primary oncologist to update re: ICU admission and when to
   restart gleevec
   - on PPI
   - Hep SC ppx for now ->may be better on lovenox given malignancy but
   with possibilty of active bleeding will hold off for now
   - follow up biopsy from OR
   - continue Cefazolin/flagyl X 3 doses per surgery recs for post-op ppx
   # Access: 3X [**Last Name (LF) 1337**], [**First Name3 (LF) 47**]
   .
   # Nutrition/Electrolytes: NPO for now, replete electrolytes as needed
   .
   # Prophy: PPI, Hep SC per sugery recs
   .
   # Communication: Family, SON HCP = [**Name (NI) 12032**] (speaks english)
   [**Telephone/Fax (1) 12033**].
   .
   # Code: FULL.
   .
   # Dispo: ICU pending above
 CANCER (MALIGNANT NEOPLASM), OTHER
 SHOCK, HYPOVOLEMIC OR HEMORRHAGIC
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2120-4-5**] 07:30 PM
   18 Gauge - [**2120-4-5**] 07:30 PM
   20 Gauge - [**2120-4-5**] 07:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2120-04-07 07:23:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2120-4-6**] 10:23 AM
   - On SBT, doing well --> Extubated
   - Trending platelets (has been low since [**2119-12-5**]).
   - Check NG tube output:
   - Hold on starting Imatinib --> Dr. [**Last Name (STitle) 12045**] will be by on monday
   - Surgery will call out to floor this evening
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefazolin - [**2120-4-6**] 03:57 PM
   Metronidazole - [**2120-4-6**] 03:57 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2120-4-7**] 12:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-4-7**] 07:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**22**] AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.2
   HR: 99 (83 - 104) bpm
   BP: 95/51(68) {90/46(63) - 138/68(93)} mmHg
   RR: 7 (0 - 26) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,316 mL
                                                                  1,080 mL
   PO:
             TF:
   IVF:
                                                                  1,966 mL
                                                                  1,080 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  1,635 mL
                                                                    490 mL
   Urine:
                                                                  1,635 mL
                                                                    390 mL
   NG:
   100 mL
   Stool:
   Drains:
   Balance:
                                                                    681 mL
                                                                    590 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: PSV/SBT
   PS : 5 cmH2O
   PEEP: 0 cmH2O
   FiO2: 40%
   SpO2: 97% on 4L NC
   ABG: 7.39/32/128/25/-4
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   85 K/uL
   9.6 g/dL
   105 mg/dL
   0.5 mg/dL
   25 mEq/L
   3.4 mEq/L
   14 mg/dL
   109 mEq/L
   139 mEq/L
   27.7 %
   6.5 K/uL
        [image002.jpg]
                             [**2120-4-6**]  02:10 AM
                             [**2120-4-6**]  03:49 AM
                             [**2120-4-6**]  04:44 AM
                             [**2120-4-6**]  05:58 AM
                             [**2120-4-6**]  08:36 AM
                             [**2120-4-6**]  09:20 AM
                             [**2120-4-6**]  01:27 PM
                             [**2120-4-6**]  03:28 PM
                             [**2120-4-6**]  03:51 PM
                             [**2120-4-7**]  03:11 AM
   WBC
   5.7
   7.0
   6.5
   Hct
   33.4
   31.8
   33.2
   27.7
   Plt
   80
   86
   85
   Cr
   0.5
   0.6
   0.5
   TropT
   0.02
   <0.01
   TCO2
   15
   17
   18
   18
   19
   20
   Glucose
   163
   110
   105
   Other labs: PT / PTT / INR:15.9/40.4/1.4, CK / CKMB /
   Troponin-T:689/11/<0.01, Lactic Acid:0.9 mmol/L, Albumin:1.7 g/dL,
   Ca++:6.7 mg/dL, Mg++:1.7 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   56 year old female with GIST s/p ex-lap with hypotension
   intra-operatively.
   .
   # Hypotension: From the reports likely hypovolemic shock +/- vasovagal
   episode when passing the NGT since it resolved extremely quickly with
   minimal intervention. [**Month (only) 60**] have also been PE given operation and
   malignancy are significant risk factors and also had hypoxia at the
   time. If it was PE it has since resolved as O2 sat now better and
   hypotension resolved. Also, very high risk to anti-coagulate so will
   hold off workup for now.  Repeated EKG here with new TWI V1-V3
   ->unclear significance.  Cycled enzymes which were negative.  Responded
   to 3U prbcs for anemia/bleeding.
   - bolus with LR
   - Has 3 large bore peripherals
   - Weaned neosynephrine
   .
   # Hypoxia: Transient and likely [**2-6**] NGT placement however cannot r/o
   PE. Now resolving.  Getting bolus for sedation.
   - Trial to extubate this am.
   - Hold on workup of PE unless hypoxia recurs
   .
   # Anemia: Baseline is 30. Now 19. Likely from intra-operative bleeding.
   Transfused 3 units pRBCs
   - 2 PIVs in place
   - active T+C
   - Serial Hcts
   .
   # Non-gap metabolic acidosis/Respiratory acidosis:
   - Possibly [**2-6**] renal losses given low UOP for 8 hours in OR
   - Increase RR to decrease acidosis (PCO2 inappropriately high)
   .
   # Recurrent GIST: Now s/p ex-lap for tumor resection.
   - Follow up surgery recs
   - emailed primary oncologist to update re: ICU admission and when to
   restart gleevec
   - on PPI
   - Hep SC ppx for now ->may be better on lovenox given malignancy but
   with possibilty of active bleeding will hold off for now
   - follow up biopsy from OR
   - continue Cefazolin/flagyl X 3 doses per surgery recs for post-op ppx
   # Access: 3X [**Last Name (LF) 1337**], [**First Name3 (LF) 47**]
   .
   # Nutrition/Electrolytes: NPO for now, replete electrolytes as needed
   .
   # Prophy: PPI, Hep SC per surgery recs
   .
   # Communication: Family, SON HCP = [**Name (NI) 12032**] (speaks english)
   [**Telephone/Fax (1) 12033**].
   .
   # Code: FULL.
   .
   # Dispo: ICU pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2120-4-5**] 07:30 PM
   18 Gauge - [**2120-4-5**] 07:30 PM
   20 Gauge - [**2120-4-5**] 07:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2120-04-08 06:54:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - orthostatic hypotension when moved to the chair (hypotensives to 70s,
   tachycardic to 110s)
   - Got 1 unit PRBCs, standing IVFs
   - Hct 26.0 --> 1 unit PRBC --> 24.5 --> 26.2 --> 25.2 --> 1 unit PRBC
   ->26.7 -> 27 (IV protonix [**Hospital1 **])
   - ongoing blood from NGT & had melenic stools x 2
   - Surgery: stop HSQ, check serial Hcts, minimize IVFs to 75 cc/hour,
   check CXR to confirm NGT placement (confirmed as placement OK)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefazolin - [**2120-4-6**] 03:57 PM
   Metronidazole - [**2120-4-6**] 03:57 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2120-4-7**] 04:44 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-4-8**] 06:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**22**] AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.1
C (98.8
   HR: 92 (81 - 105) bpm
   BP: 109/59(78) {87/44(60) - 119/64(86)} mmHg
   RR: 20 (7 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 66.2 kg (admission): 58.7 kg
           Total In:
                                                                  3,805 mL
                                                                    827 mL
   PO:
           TF:
   IVF:
                                                                  3,349 mL
                                                                    582 mL
   Blood products:
                                                                    455 mL
                                                                    245 mL
   Total out:
                                                                  1,900 mL
                                                                    635 mL
   Urine:
                                                                  1,650 mL
                                                                    535 mL
   NG:
                                                                    250 mL
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                  1,905 mL
                                                                    192 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///27/
   Physical Examination
   GEN: NAD
   CV: RRR
   RESP: CTA on anterior exam
   ABD: No bowel sounds appreciated.  Diffuse discomfort to palpation but
   no tenderness, rebound, or guarding.
   EXT: WWP
   Labs / Radiology
   78 K/uL
   9.1 g/dL
   89 mg/dL
   0.3 mg/dL
   27 mEq/L
   3.8 mEq/L
   16 mg/dL
   112 mEq/L
   142 mEq/L
   26.7 %
   5.7 K/uL
        [image002.jpg]
                             [**2120-4-6**]  01:27 PM
                             [**2120-4-6**]  03:28 PM
                             [**2120-4-6**]  03:51 PM
                             [**2120-4-7**]  03:11 AM
                             [**2120-4-7**]  07:51 AM
                             [**2120-4-7**]  04:17 PM
                             [**2120-4-7**]  05:26 PM
                             [**2120-4-7**]  08:51 PM
                             [**2120-4-8**]  01:49 AM
                             [**2120-4-8**]  05:42 AM
   WBC
   7.0
   6.5
   6.2
   6.1
   5.7
   Hct
   33.2
   27.7
   26.0
   24.5
   26.2
   25.2
   27.3
   26.7
   Plt
   86
   85
   73
   83
   78
   Cr
   0.6
   0.5
   0.3
   TropT
   <0.01
   TCO2
   19
   20
   Glucose
   110
   105
   89
   Other labs: PT / PTT / INR:13.4/31.8/1.1, CK / CKMB /
   Troponin-T:689/11/<0.01, ALT / AST:12/34, Alk Phos / T Bili:36/1.4,
   Lactic Acid:0.9 mmol/L, Albumin:1.7 g/dL, LDH:198 IU/L, Ca++:6.7 mg/dL,
   Mg++:2.2 mg/dL, PO4:1.4 mg/dL
   CXR: my read: evolving RLL consolidation/effusion compared to [**4-5**]
   Assessment and Plan
   56 year old female with GIST s/p ex-lap with hypotension
   intra-operatively.
   .
   # Hypotension: From the reports likely hypovolemic shock +/- vasovagal
   episode when passing the NGT since it resolved extremely quickly with
   minimal intervention. [**Month (only) 60**] have also been PE given operation and
   malignancy are significant risk factors and also had hypoxia at the
   time. If it was PE it has since resolved as O2 sat now better and
   hypotension resolved. Also, very high risk to anti-coagulate so will
   hold off workup for now.  Repeated EKG here with new TWI V1-V3
   ->unclear significance.  Cycled enzymes which were negative.  Responded
   to 3U prbcs for anemia/bleeding.
   - bolus with LR as needed
   - Has 3 large bore peripherals
   - now off pressors
   - repeat TTE given association of gleevec with cardiomyopathy in CML
   (unknown in GIST)
   .
   # Hypoxia: Transient and likely [**2-6**] NGT placement however cannot r/o
   PE. Now resolving.  Getting bolus for sedation.  New RLL opacity on CXR
   [**Date range (1) 12051**].
   - extubated
   - Hold on workup of PE unless hypoxia recurs
   - trend fever curve, culture if spikes
   .
   # Anemia: Baseline is 30. Now 24 s/p 3 units pRBCs. Likely from
   intra-operative bleeding.
   - 2 PIVs in place
   - active T+C
   - Q4H Hcts
   - Transfuse additional unit pRBC today, surgery reccomends goal of 26
   Hct
   .
   # thrombocytopenia: baseline 170
s, now 70
s, down trending.  Likely
   hemodilutional.  Consider HIT.
   - continue trend
   - provide support
 may need to give plt given active bleed
   - consider sending PF4 for eval of HIT.
   .
   # Non-gap metabolic acidosis: Likely [**2-6**] aggressive IVF.  Patient has
   appropriate respiratory compensation.
   - continue to monitor
   .
   # Recurrent GIST: Now s/p ex-lap for tumor resection.
   - f/u Surgery recs, specifically about dressings
   - f/u Onc recs on Monday re: Gleevec
   - on PPI
   - hold Hep SC ppx for now
 per surgery recs
   - follow up biopsy from OR
   - continue Cefazolin/flagyl X 3 doses per surgery recs for post-op ppx
   # Access: 3X [**Last Name (LF) 1337**], [**First Name3 (LF) 47**]
   .
   # Nutrition/Electrolytes: NPO for now, replete electrolytes as needed
   .
   # Prophy: PPI, hold HSQ per surgery recs
   .
   # Communication: Family, SON HCP = [**Name (NI) 12032**] (speaks english)
   [**Telephone/Fax (1) 12033**].
   .
   # Code: FULL.
   .
   # Dispo: ICU pending above
 CANCER (MALIGNANT NEOPLASM), OTHER
 SHOCK, HYPOVOLEMIC OR HEMORRHAGIC
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2120-4-5**] 07:30 PM
   18 Gauge - [**2120-4-5**] 07:30 PM
   20 Gauge - [**2120-4-7**] 11:00 PM
   Prophylaxis:
   DVT: pboots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: